US07517899B2
To a solution of methyl (2SR,3SR)-3-(2,3-dihydro-1H-indol-1-yl)-2-hydroxy-3-(4-methoxyphenyl)propanoate (2.63 g, 8.0 mmol) in anhydrous toluene (50 mL) at 0° C. under nitrogen was added a solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.87 g, 8.2 mmol) in anhydrous toluene (50 mL) over 5 minutes. The reaction mixture was stirred 0° C. to room temperature for 1.5 hours then quenched by the addition of 7% w/v aqueous sodium carbonate solution (100 mL). The resulting biphasic mixture was stirred vigorously for 5 minutes then partitioned between ethyl acetate (300 mL) and 7% w/v aqueous sodium carbonate (250 mL). The organic phase was separated, washed with 7% w/v aqueous sodium carbonate solution (3×250 mL), water (250 mL) and saturated brine (250 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give a lilac solid. Purification by flash chromatography (silica, 20%, 30% ethyl acetate/hexane) afforded 2.5 g (96%) of methyl (2SR,3SR)-2-hydroxy-3-(1H-indol-1-yl)-3-(4-methoxyphenyl)propanoate as a cream solid. MS (ES) m/z 326.3 ([M+H]+); HRMS: calcd for C19H19NO4+H+, 326.13869; found (ESI, [M+H]+), 326.1378.

reactant | methyl (2SR,3SR)-3-(2,3-dihydro-1H-indol-1-yl)-2-hydroxy-3-(4-methoxyphenyl)propanoate | 8.0 mmol, 2.63 g | N1(CCC2=CC=CC=C12)C(C(C(=O)OC)O)C1=CC=C(C=C1)OC | C19H21NO4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 8.2 mmol, 1.87 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (2SR,3SR)-2-hydroxy-3-(1H-indol-1-yl)-3-(4-methoxyphenyl)propanoate | 2.5 g, 96% | OC(C(=O)OC)C(C1=CC=C(C=C1)OC)N1C=CC2=CC=CC=C12 | C19H19NO4
